US06348474B1
5-Carboxy-2-ethylbenzo[b]furan
Magnesium (1.50 g) was stirred in ether (30 ml) at room temperature. Thereto was dropwise added a solution of 5-bromo-2-ethylbenzo[b]furan (8.30 g) and methyl iodide (0.55 g) in ether (30 ml) over 30 min. Then, the mixture was refluxed for 50 min and cooled in an ice water bath. In a different container, pulverized dry ice was stirred in ether and the Grignard reagent prepared above was transferred over about 5 min. 2N Hydrochloric acid was added to the reaction mixture to acidify the solution, and the ether layer was separated. The solution was basified with a 5% aqueous solution of sodium hydroxide and the separated aqueous layer was acidified with 2N hydrochloric acid. After extraction with ether, the extract was dried over sodium sulfate and concentrated to give the objective compound (2.48 g).

reactant | Magnesium | 1.50 g | [Mg] | Mg
reactant | 5-bromo-2-ethylbenzo[b]furan | 8.30 g | BrC1=CC2=C(OC(=C2)CC)C=C1 | C10H9BrO
reactant | methyl iodide | 0.55 g | CI | CH3I
reactant | dry ice | C(=O)=O | CO2
reactant | Hydrochloric acid | 2N | Cl | ClH
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | ether | 30 ml | CCOCC | C4H10O
product | 5-Carboxy-2-ethylbenzo[b]furan | 2.48 g | C(=O)(O)C1=CC2=C(OC(=C2)CC)C=C1 | C11H10O3
